US06114327
A. 2-Amino-α-(2,5-Difluorophenyl)-α-Methyl-1-[(1-methylethyl)sulfonyl]benzimidazole-6-Methanol
Methyl magnesium chloride (929 mL, 2.79 mol, 3M in tetrahydrofuran) was added slowly over 30 minutes to a solution of 1-isopropylsulfonyl-2-amino-6-(2,5-difluorobenzoyl)benzimidazole (352.7 g, 0.929 mol) in tetrahydrofuran while maintaining the temperature between -20° C. and -30° C. When the addition was complete, the reaction mixture was warmed slowly to room temperature over 2 hours. Additional 3M methyl magnesium chloride (186 mL, followed by 46.5 mL) was added until less than 1% ketone starting material remained by HPLC analysis. The reaction was quenched by the sequential addition of ethyl acetate (4.2 L) and 1N hydrochloric acid (4.2 L) and the mixture stirred for 1 hour. The phases were separated and the aqueous phase extracted with ethyl acetate (2.0 L). The combined organic fractions were washed with brine (4.0 L) and dried over magnesium sulfate. After filtration, removal of the solvent by rotary evaporation afforded 373 g of the title compound as a beige foam (93% purity, 94% yield).

reactant | Methyl magnesium chloride | 2.79 mol, 3M, 929 mL | C[Mg]Cl
reactant | 1-isopropylsulfonyl-2-amino-6-(2,5-difluorobenzoyl)benzimidazole | 0.929 mol, 352.7 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=C(C=CC(=C2)F)F)=O)N | C17H15F2N3O3S
reactant | methyl magnesium chloride | 3M, 186 mL | C[Mg]Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Amino-α-(2,5-Difluorophenyl)-α-Methyl-1-[(1-methylethyl)sulfonyl]benzimidazole-6-Methanol | 373 g, 94% yield | NC1=NC2=C(N1S(=O)(=O)C(C)C)C=C(C=C2)C(O)(C)C2=C(C=CC(=C2)F)F | C18H19F2N3O3S
